* c:\fossee2\esim\library\subcircuitlibrary\sc_74hc4017\sc_74hc4017.cir

* u18  net-_u12-pad5_ net-_u12-pad2_ ? net-_u12-pad4_ net-_u18-pad5_ net-_u10-pad2_ d_dff
* u24  net-_u21-pad3_ net-_u12-pad2_ ? net-_u12-pad4_ net-_u10-pad1_ net-_u13-pad1_ d_dff
* u29  net-_u10-pad1_ net-_u12-pad2_ ? net-_u12-pad4_ net-_u13-pad2_ net-_u15-pad1_ d_dff
* u12  net-_u12-pad1_ net-_u12-pad2_ ? net-_u12-pad4_ net-_u12-pad5_ net-_u12-pad6_ d_dff
* u33  net-_u13-pad2_ net-_u12-pad2_ ? net-_u12-pad4_ net-_u15-pad2_ net-_u12-pad1_ d_dff
* u3  net-_u1-pad13_ net-_u3-pad2_ d_inverter
* u2  net-_u1-pad14_ net-_u2-pad2_ d_buffer
* u4  net-_u1-pad15_ net-_u12-pad4_ d_buffer
* u11  net-_u10-pad3_ net-_u1-pad4_ d_buffer
* u9  net-_u8-pad3_ net-_u1-pad2_ d_buffer
* u6  net-_u5-pad3_ net-_u1-pad3_ d_buffer
* u14  net-_u13-pad3_ net-_u1-pad7_ d_buffer
* u16  net-_u15-pad3_ net-_u1-pad10_ d_buffer
* u20  net-_u19-pad3_ net-_u1-pad1_ d_buffer
* u23  net-_u22-pad3_ net-_u1-pad5_ d_buffer
* u26  net-_u25-pad3_ net-_u1-pad6_ d_buffer
* u28  net-_u27-pad3_ net-_u1-pad9_ d_buffer
* u31  net-_u30-pad3_ net-_u1-pad11_ d_buffer
* u32  net-_u12-pad1_ net-_u1-pad12_ d_buffer
* u5  net-_u12-pad5_ net-_u15-pad2_ net-_u5-pad3_ d_nor
* u8  net-_u12-pad6_ net-_u18-pad5_ net-_u8-pad3_ d_nor
* u10  net-_u10-pad1_ net-_u10-pad2_ net-_u10-pad3_ d_nor
* u13  net-_u13-pad1_ net-_u13-pad2_ net-_u13-pad3_ d_nor
* u15  net-_u15-pad1_ net-_u15-pad2_ net-_u15-pad3_ d_nor
* u19  net-_u12-pad1_ net-_u12-pad6_ net-_u19-pad3_ d_nor
* u22  net-_u10-pad2_ net-_u12-pad5_ net-_u22-pad3_ d_nor
* u25  net-_u13-pad1_ net-_u18-pad5_ net-_u25-pad3_ d_nor
* u30  net-_u12-pad1_ net-_u13-pad2_ net-_u30-pad3_ d_nor
* u27  net-_u10-pad1_ net-_u15-pad1_ net-_u27-pad3_ d_nor
* u17  net-_u10-pad1_ net-_u12-pad5_ net-_u17-pad3_ d_or
* u21  net-_u17-pad3_ net-_u18-pad5_ net-_u21-pad3_ d_and
* u7  net-_u3-pad2_ net-_u2-pad2_ net-_u12-pad2_ d_and
* u1  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ ? net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ ? port
a1 net-_u12-pad5_ net-_u12-pad2_ ? net-_u12-pad4_ net-_u18-pad5_ net-_u10-pad2_ u18
a2 net-_u21-pad3_ net-_u12-pad2_ ? net-_u12-pad4_ net-_u10-pad1_ net-_u13-pad1_ u24
a3 net-_u10-pad1_ net-_u12-pad2_ ? net-_u12-pad4_ net-_u13-pad2_ net-_u15-pad1_ u29
a4 net-_u12-pad1_ net-_u12-pad2_ ? net-_u12-pad4_ net-_u12-pad5_ net-_u12-pad6_ u12
a5 net-_u13-pad2_ net-_u12-pad2_ ? net-_u12-pad4_ net-_u15-pad2_ net-_u12-pad1_ u33
a6 net-_u1-pad13_ net-_u3-pad2_ u3
a7 net-_u1-pad14_ net-_u2-pad2_ u2
a8 net-_u1-pad15_ net-_u12-pad4_ u4
a9 net-_u10-pad3_ net-_u1-pad4_ u11
a10 net-_u8-pad3_ net-_u1-pad2_ u9
a11 net-_u5-pad3_ net-_u1-pad3_ u6
a12 net-_u13-pad3_ net-_u1-pad7_ u14
a13 net-_u15-pad3_ net-_u1-pad10_ u16
a14 net-_u19-pad3_ net-_u1-pad1_ u20
a15 net-_u22-pad3_ net-_u1-pad5_ u23
a16 net-_u25-pad3_ net-_u1-pad6_ u26
a17 net-_u27-pad3_ net-_u1-pad9_ u28
a18 net-_u30-pad3_ net-_u1-pad11_ u31
a19 net-_u12-pad1_ net-_u1-pad12_ u32
a20 [net-_u12-pad5_ net-_u15-pad2_ ] net-_u5-pad3_ u5
a21 [net-_u12-pad6_ net-_u18-pad5_ ] net-_u8-pad3_ u8
a22 [net-_u10-pad1_ net-_u10-pad2_ ] net-_u10-pad3_ u10
a23 [net-_u13-pad1_ net-_u13-pad2_ ] net-_u13-pad3_ u13
a24 [net-_u15-pad1_ net-_u15-pad2_ ] net-_u15-pad3_ u15
a25 [net-_u12-pad1_ net-_u12-pad6_ ] net-_u19-pad3_ u19
a26 [net-_u10-pad2_ net-_u12-pad5_ ] net-_u22-pad3_ u22
a27 [net-_u13-pad1_ net-_u18-pad5_ ] net-_u25-pad3_ u25
a28 [net-_u12-pad1_ net-_u13-pad2_ ] net-_u30-pad3_ u30
a29 [net-_u10-pad1_ net-_u15-pad1_ ] net-_u27-pad3_ u27
a30 [net-_u10-pad1_ net-_u12-pad5_ ] net-_u17-pad3_ u17
a31 [net-_u17-pad3_ net-_u18-pad5_ ] net-_u21-pad3_ u21
a32 [net-_u3-pad2_ net-_u2-pad2_ ] net-_u12-pad2_ u7
* Schematic Name:                             d_dff, NgSpice Name: d_dff
.model u18 d_dff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 data_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_dff, NgSpice Name: d_dff
.model u24 d_dff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 data_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_dff, NgSpice Name: d_dff
.model u29 d_dff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 data_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_dff, NgSpice Name: d_dff
.model u12 d_dff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 data_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_dff, NgSpice Name: d_dff
.model u33 d_dff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 data_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u3 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_buffer, NgSpice Name: d_buffer
.model u2 d_buffer(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_buffer, NgSpice Name: d_buffer
.model u4 d_buffer(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_buffer, NgSpice Name: d_buffer
.model u11 d_buffer(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_buffer, NgSpice Name: d_buffer
.model u9 d_buffer(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_buffer, NgSpice Name: d_buffer
.model u6 d_buffer(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_buffer, NgSpice Name: d_buffer
.model u14 d_buffer(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_buffer, NgSpice Name: d_buffer
.model u16 d_buffer(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_buffer, NgSpice Name: d_buffer
.model u20 d_buffer(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_buffer, NgSpice Name: d_buffer
.model u23 d_buffer(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_buffer, NgSpice Name: d_buffer
.model u26 d_buffer(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_buffer, NgSpice Name: d_buffer
.model u28 d_buffer(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_buffer, NgSpice Name: d_buffer
.model u31 d_buffer(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_buffer, NgSpice Name: d_buffer
.model u32 d_buffer(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nor, NgSpice Name: d_nor
.model u5 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nor, NgSpice Name: d_nor
.model u8 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nor, NgSpice Name: d_nor
.model u10 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nor, NgSpice Name: d_nor
.model u13 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nor, NgSpice Name: d_nor
.model u15 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nor, NgSpice Name: d_nor
.model u19 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nor, NgSpice Name: d_nor
.model u22 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nor, NgSpice Name: d_nor
.model u25 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nor, NgSpice Name: d_nor
.model u30 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nor, NgSpice Name: d_nor
.model u27 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_or, NgSpice Name: d_or
.model u17 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u21 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u7 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
.tran 10e-03 100e-03 0e-03

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
