.title kicad schematic

.include D.lib
.include NPN.lib
.include PNP.lib
q5 net-_d7-pad1_ net-_d4-pad1_ net-_d1-pad2_ Q2N2222
* u1 net-_d7-pad1_ net-_q3-pad2_ net-_q1-pad2_ net-_d1-pad2_ net-_d1-pad1_ net-_q15-pad3_ net-_d2-pad1_ net-_d9-pad2_ port
q2 net-_q1-pad3_ net-_d1-pad1_ net-_d1-pad2_ Q2N2222
d4 net-_d4-pad1_ net-_d1-pad2_ 1N4148
d1 net-_d1-pad1_ net-_d1-pad2_ 1N4148
d3 net-_d2-pad1_ net-_d3-pad2_ 1N4148
d2 net-_d2-pad1_ net-_d2-pad2_ 1N4148
q1 net-_d2-pad2_ net-_q1-pad2_ net-_q1-pad3_ Q2N2222
q3 net-_d3-pad2_ net-_q3-pad2_ net-_q1-pad3_ Q2N2222
d5 net-_d5-pad1_ net-_d4-pad1_ 1N4148
q4 net-_d5-pad1_ net-_d2-pad2_ net-_d2-pad1_ Q2N2907A
q6 net-_d7-pad1_ net-_d3-pad2_ net-_d2-pad1_ Q2N2907A
q7 net-_d6-pad2_ net-_d1-pad1_ net-_d1-pad2_ Q2N2222
d6 net-_d2-pad1_ net-_d6-pad2_ 1N4148
q17 net-_q15-pad3_ net-_q16-pad1_ net-_q12-pad2_ Q2N2907A
r1 net-_q12-pad2_ net-_d2-pad1_ 50
q16 net-_q16-pad1_ net-_q10-pad1_ net-_q15-pad3_ Q2N2222
q12 net-_d6-pad2_ net-_q12-pad2_ net-_d2-pad1_ Q2N2907A
q10 net-_q10-pad1_ net-_d6-pad2_ net-_d2-pad1_ Q2N2907A
q11 net-_q11-pad1_ net-_d9-pad1_ net-_q10-pad1_ Q2N2907A
q15 net-_q15-pad1_ net-_d9-pad2_ net-_q15-pad3_ Q2N2907A
q14 net-_d7-pad1_ net-_q14-pad2_ net-_d1-pad2_ Q2N2222
q13 net-_q10-pad1_ net-_q11-pad1_ net-_d9-pad2_ Q2N2222
q18 net-_q15-pad3_ net-_q15-pad1_ net-_q14-pad2_ Q2N2222
r2 net-_d1-pad2_ net-_q14-pad2_ 50
d9 net-_d9-pad1_ net-_d9-pad2_ 1N4148
d7 net-_d7-pad1_ net-_d7-pad2_ 1N4148
q9 net-_d9-pad2_ net-_d7-pad2_ net-_d1-pad2_ Q2N2222
d8 net-_d7-pad2_ net-_d1-pad2_ 1N4148
q8 net-_d2-pad1_ net-_d7-pad1_ net-_d7-pad2_ Q2N2222
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
